US09023846B2
6-(2,6-Dichlorophenyl)-4-hydroxy-1H-pyridin-2-one (253 mg, 0.990 mmol, prepared as described in the previous step) was placed in a 8 mL vial equipped with a stir bar and AcOH (4 mL) was added. Concentrated HNO3 (0.540 mL, 12.0 mmol) was added via syringe and the vial was capped and stirred at 60° C. for 14 hr. The resulting mixture was cooled to room temperature and poured onto crushed ice (20 mL). The precipitate was isolated by filtration and washed with H2O (10 mL). The solid was air-dried to yield 6-(2,6-Dichloro-phenyl)-4-hydroxy-3-nitro-1H-pyridin-2-one as a yellow powder. The filtrate was extracted with EtOAc (3×10 mL) and the combined extracts were washed with H2O (20 mL), dried over MgSO4 and filtered. The solvent was removed under reduced pressure to yield an additional crop of 6-(2,6-dichloro-phenyl)-4-hydroxy-3-nitro-1H-pyridin-2-one. 1H-NMR (400 MHz, CD3OD) δ: 7.48-7.61 (m, 3H), 6.13 (s, 1H).

reactant | 6-(2,6-Dichlorophenyl)-4-hydroxy-1H-pyridin-2-one | ClC1=C(C(=CC=C1)Cl)C1=CC(=CC(N1)=O)O | C11H7Cl2NO2
reactant | HNO3 | 12.0 mmol, 0.540 mL | [N+](=O)(O)[O-] | HNO3
solvent | AcOH | 4 mL | CC(=O)O | C2H4O2
product | 6-(2,6-Dichloro-phenyl)-4-hydroxy-3-nitro-1H-pyridin-2-one | ClC1=C(C(=CC=C1)Cl)C1=CC(=C(C(N1)=O)[N+](=O)[O-])O | C11H6Cl2N2O4
